US05677454
A solution of 55 mg 2-phenyl-4-hydroxymethylpyrimidine in 1 mL of thionyl chloride was heated at reflux temperature for 1 hr and the excess thionyl chloride removed by evaporation under reduced pressure to yield 50 mg of 2-phenyl-4-chloromethylpyrimidine as an oil which was used in the next step without further purification or characterization.

reactant | 2-phenyl-4-hydroxymethylpyrimidine | 55 mg | C1(=CC=CC=C1)C1=NC=CC(=N1)CO | C11H10N2O
reactant | thionyl chloride | 1 mL | S(=O)(Cl)Cl | Cl2OS
product | 2-phenyl-4-chloromethylpyrimidine | 50 mg | C1(=CC=CC=C1)C1=NC=CC(=N1)CCl | C11H9ClN2
